2187-03-28 12:57:00 Physician Attending Progress Note
Chief Complaint: HOTN/sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo women with h/o dementia, DM II, HTN, admitted from OSH with HOTN,
   fever altered MS.  [**Name13 (STitle) 368**] had recurrent admissions for cholangitis.  Had
   5L NS in [**Hospital1 1**].  Abd CT with evidence of DVT.
   By report she was recently in hospice, but was reversed.  In MICU was
   very tachy, was on levophed which was changed to neo.  Got dilt drip
   and eventually went back to sinus.
   24 Hour Events:
 ARTERIAL LINE - START [**2187-3-28**] 02:22 AM
 MULTI LUMEN - START [**2187-3-28**] 03:50 AM
 FEVER - 101.8
F - [**2187-3-28**] 01:52 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-28**] 05:12 AM
   Metronidazole - [**2187-3-28**] 06:08 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2187-3-28**] 02:15 AM
   Diltiazem - [**2187-3-28**] 02:45 AM
   Other medications:
   dilt drip
   colace
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-28**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.7
C (99.9
   HR: 73 (63 - 198) bpm
   BP: 110/46(69) {86/36(55) - 118/61(81)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 6 (6 - 14)mmHg
   SvO2: 94%
   Mixed Venous O2% Sat: 96 - 96
                                Total In:
                                7,960 mL
   PO:
                                TF:
   IVF:
   3,960 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,595 mL
   Urine:
   845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/30/95.[**Numeric Identifier **]/15/-8
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 2+
   Skin:  Warm, sacral decube
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal, opens eyes to voice follows some commands
   Labs / Radiology
   10.2 g/dL
   475 K/uL
   177 mg/dL
   0.8 mg/dL
   15 mEq/L
   3.9 mEq/L
   10 mg/dL
   121 mEq/L
   143 mEq/L
   33
   14.5 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
   WBC
   10.6
   14.5
   Hct
   32.0
   32.4
   33
   Plt
   351
   475
   Cr
   0.9
   0.8
   TropT
   0.08
   0.08
   TCO2
   15
   17
   Glucose
   195
   177
   Other labs: PT / PTT / INR:18.6/150.0/1.7, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**6-30**], Alk Phos / T Bili:77/0.3,
   Differential-Neuts:93.4 %, Lymph:3.7 %, Mono:2.6 %, Eos:0.3 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:242 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: + Leuks in UA
   Imaging: CXR: LLL infiltrate
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  Multiple possible sources
   including PNA, UTI, sacral decubest and cholangitis.  Cholangitis less
   likely with nl LFTs. Continue Vanco/zosyn/flagyl.
   - Wean down neo as tolerated, IVF with CVP goal [**9-24**].
   DVT: On heparin gtt (Left common femoral)
   RAF with RVR:  responded well to dilt drip
   C. diff colitis:  on flagyl
   acidosis:  Non-AG likely from fluid resuscitation.
   Wound care for sacral decube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-28**] 03:50 AM
   20 Gauge - [**2187-3-28**] 04:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2187-03-29 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had TTE which showed moderate aortic valve stenosis and diastolic
   dysfunction
   - Patient's central line was accidentally cut during dressing change
   - Discussion with daughter revealed that patient should be DNI;
   however, will resuscitate if needed.
   - New RIJ central line was placed
   - Was bolused several times with LR for hypotension
   - After central line placed, heparin drip restarted, shortly after,
   phenylephrine started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-28**] 05:12 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-29**] 02:37 AM
   Metronidazole - [**2187-3-29**] 06:25 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Dextrose 50% - [**2187-3-28**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-29**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 76 (65 - 96) bpm
   BP: 107/47(68) {81/36(50) - 132/61(88)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (4 - 13)mmHg
   SvO2: 94%
             Total In:
                                                                 10,217 mL
                                                                    443 mL
   PO:
   TF:
   IVF:
                                                                  6,192 mL
                                                                    443 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    400 mL
   Urine:
                                                                  1,630 mL
                                                                    400 mL
   Balance:
                                                                  7,837 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: 2 L Nasal cannula
   SpO2: 97%
   Physical Examination
   GEN:
   HEENT:
   NECK:
   PULM:
   CARD:
   ABD:
   EXT:
   NEURO:
   Labs / Radiology
   288 K/uL
   9.5 g/dL
   136 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.8 mEq/L
   11 mg/dL
   118 mEq/L
   142 mEq/L
   31.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
   WBC
   10.6
   14.5
   6.6
   Hct
   32.0
   32.4
   33
   31.4
   Plt
   [**Telephone/Fax (3) 5426**]
   Cr
   0.9
   0.8
   0.8
   TropT
   0.08
   0.08
   TCO2
   15
   17
   Glucose
   195
   177
   136
   Other labs: PT / PTT / INR:17.7/37.6/1.6, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-3**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:238 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   A/P:  82 yo F with PMHx sig. for Alzheimer's disease, DM2, HTN, and
   multiple admissions for ascending cholangitis who was transferred from
   OSH for hypotension, fevers.
   .
   1.  Severe septic shock:  Pt has multiple sources including LLL
   infiltrate on CXR, possible cholecystitis/cholangitis on CT scan,
   positive U/A, and decubitus ulcers.  Pt arrived on levophed with
   tachycardia to 200s, switched over to neo.
   - f/u blood cultures, UCx
   - serial CXR to see evolution of LLL infiltrate
   - serial ABGs given infiltrate, fluid resuscitation
   - vancomycin, zosyn
   - flagyl for c. diff
   - resuscitation goals for IVF of UOP > 30 cc/hr, CVP 10-12, MAP > 65;
   will use LR boluses give metabolic acidosis
   - cont. neo, wean as tolerated
   - avoid levophed given afib
   - Surgery following for ?cholecystitis, appreciate recs
   .
   2.  Hypotension:  On arrival, included combination of septis shock and
   cardiogenic shock from tachycardia.  Given new DVT, there is concern
   for PE causing cardiogenic shock as well.  Random cortisol of 21 is
   reassuring.
   - treat sepsis as above
   - treat new onset a fib as below
   - ECHO to assess for cardiogenic causes of shock, inc. PE given DVT
   .
   3.  New onset atrial fibrillation:  Likely in setting of sepsis,
   levophed, and high fevers.
   - treat sepsis as above
   - cont. dilt gtt for now, wean off as tolerated
   - tylenol for fevers
   - ECHO to assess for cardiogenic causes of shock
   - serial cardiac enzymes
   - currently on heparin gtt for DVT
   .
   4.  DVT:  DVT of L common femoral seen on CT scan of abdomen.
   Currently not very hypoxia to suggest PE but initially hypotensive.  Pt
   is guaiac pos.
   - cont. heparin gtt
   .
   5.  C. diff colitis:  Currently no evidence for toxic megacolon.
   - cont. flagyl
   - monitor stool output
   .
   6.  Decubitus ulcers:  Concern for infection from diarrhea from C.
   diff.
   - Wound care recs per last admission
   - Wound care c/s
   .
   7.  Nongap metabolic acidosis:  LIkely from aggressive NS fluid
   resuscitation.
   - monitor serial ABGs, bicarb
   - fluid bolus with LR
   .
   8.  DM2:
   - half of home lantus dose, ISS
   ICU Care
   Nutrition:
   Comments: CVP goal of [**9-24**], monitor/replete electrolytes, reassess NPO
   status in morning, previously passed S&S, would otherwise need NGT for
   TFs
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-28**] 03:50 AM
   20 Gauge - [**2187-3-28**] 04:02 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: HCP is daughter [**Name (NI) 2865**] [**Name (NI) 2866**],
   [**Telephone/Fax (1) 5134**].
   Pt was previously made DNR/DNI on last admission in conjunction with
   hospice care.  Per palliative care notes, family seemed hesitant to
   make pt DNR/DNI.  Currently, family would like to readdress code
   status.  Will get palliative care consult in AM.
   Code status: Full code
   Disposition: ICU

2187-03-29 10:10:00 Physician Attending Progress Note
Chief Complaint: sepsis/HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo women from [**Hospital1 69**], admitted with HOTN and sepsis.    Possible
   sources include PNA,UTI, cholecystitis or sacral decube.
   24 Hour Events:
 ULTRASOUND - At [**2187-3-28**] 12:00 PM
   Cardiac Echo
 MULTI LUMEN - STOP [**2187-3-28**] 06:32 PM
 MULTI LUMEN - START [**2187-3-29**] 12:35 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-29**] 02:37 AM
   Metronidazole - [**2187-3-29**] 06:25 AM
   Vancomycin - [**2187-3-29**] 08:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Dextrose 50% - [**2187-3-28**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-29**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 90 (66 - 96) bpm
   BP: 115/52(77) {81/36(50) - 132/61(88)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 7 (4 - 13)mmHg
   SvO2: 94%
                                Total In:
                                                                 10,217 mL
                                                                    685 mL
   PO:
                                TF:
   IVF:
                                                                  6,192 mL
                                                                    685 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    690 mL
   Urine:
                                                                  1,630 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,837 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Large Stage III-IV decube ulcer
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   288 K/uL
   136 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.8 mEq/L
   11 mg/dL
   118 mEq/L
   142 mEq/L
   31.4 %
   6.6 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
   WBC
   10.6
   14.5
   6.6
   Hct
   32.0
   32.4
   33
   31.4
   Plt
   [**Telephone/Fax (3) 5426**]
   Cr
   0.9
   0.8
   0.8
   TropT
   0.08
   0.08
   TCO2
   15
   17
   Glucose
   195
   177
   136
   Other labs: PT / PTT / INR:17.7/37.6/1.6, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-3**], Alk Phos / T Bili:81/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:238 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Sepsis/HOTN:  Improved with antibiotics, now off pressors.  On
   vanco/zosyn/flagyl to potentially cover PNA, UTI, cholecytsis, decube,
   and C. diff (which she has).
   Cholecystitis:  Because she is improving on conservative therapy, will
   hold off on draining gall bladder as unclear if she has a cholecystitis
   AFib:  required dilt drip previously
   DVT: on heparin drip
   C. diff colitis: On flagyl
   More alert today so can start PO diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   20 Gauge - [**2187-3-28**] 09:29 PM
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2187-03-30 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - off pressors as of 8am
   - dilt drip discontinued
   - Palliative care consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-30**] 02:24 AM
   Metronidazole - [**2187-3-30**] 06:16 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 79 (75 - 97) bpm
   BP: 97/43(63) {94/40(60) - 127/74(89)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  1,703 mL
                                                                    509 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,303 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    470 mL
   Urine:
                                                                  1,535 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.42/24/84.[**Numeric Identifier 1132**]/18/-6
   Physical Examination
   GEN: NAD
   HEENT: PERRL, oral mucosa dry
   NECK: Right IJ central line, nontender, no erythema
   PULM: Clear anteriorly
   CARD: RR, nl S1, nl S2
   ABD: Soft, NT, ND
   EXT: no C/C/E
   NEURO: Not oriented
   Labs / Radiology
   261 K/uL
   9.6 g/dL
   144 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.7 mEq/L
   10 mg/dL
   118 mEq/L
   139 mEq/L
   30.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
   WBC
   10.6
   14.5
   6.6
   6.2
   Hct
   32.0
   32.4
   33
   31.4
   30.1
   Plt
   [**Telephone/Fax (3) 5453**]61
   Cr
   0.9
   0.8
   0.8
   0.7
   TropT
   0.08
   0.08
   TCO2
   15
   17
   16
   Glucose
   195
   177
   136
   144
   Other labs: PT / PTT / INR:17.9/105.4/1.6, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   A/P:  82 yo F with PMHx sig. for Alzheimer's disease, DM2, HTN, and
   multiple admissions for ascending cholangitis who was transferred from
   OSH for hypotension, fevers.
   1.  Severe septic shock:
   Pt has multiple sources including LLL infiltrate on CXR, possible
   cholecystitis/cholangitis on CT scan, positive U/A, and decubitus
   ulcers.  Pt has been liberated from phenylephrine. Surgery has signed
   off from the case, being unable to offer the patient any surgery for
   her gallbladder at this time. GI consult reports that cholangitis
   unlikely to be source of sepsis; however, should consider cholecystitis
   as cause of sepsis and consider percutaneous chole drainage via IR.
   Ucx from admit sig for GNR, likely source.
   - f/u blood cultures, UCx
   - serial ABGs given infiltrate, fluid resuscitation
   - vancomycin, zosyn.  Plan 10d course for PNA.
   - flagyl for c. diff
   - resuscitation goals for IVF of UOP > 30 cc/hr, CVP 10-12, MAP > 65;
   will use LR boluses give metabolic acidosis
   - avoid levophed given afib
   2.  Hypotension:
   Reassuring that ECHO was normal as it helps us rule out cardiogenic
   causes of hypotension. Random cortisol of 21 is reassuring. In instance
   that hypotension caused by right heart failure from PE, heparin drip
   should be continued.  BP improved, off pressors.  Cont to monitor.
   3.  New onset atrial fibrillation:
   Likely in setting of sepsis, levophed, and high fevers. Dilt drip now
   off.  On heparin gtt for DVT.
   - treat sepsis as above
   - tylenol for fevers
   4.  DVT:  DVT of L common femoral seen on CT scan of abdomen.
   Currently not very hypoxia to suggest PE but initially hypotensive.  Pt
   is guaiac pos.
   - cont. heparin gtt
   5.  C. diff colitis:  Currently no evidence for toxic megacolon.
   - cont. flagyl
   - monitor stool output
   6.  Decubitus ulcers:  Concern for infection from diarrhea from C.
   diff.
   - Plastic surgery consult for decub ulcer.
   7.  Nongap metabolic acidosis:  Likely from aggressive NS fluid
   resuscitation.
   - monitor serial ABGs, bicarb
   - fluid bolus with LR
   8.  DM2:
   - half of home lantus dose, ISS
   FEN:  Dysphagia diet
   Access:  RIJ [**Last Name (LF) 864**], [**First Name3 (LF) 116**] request PICC line.  Hold heparin gtt for PICC
   line.
   Dispo:  Call out to floor.
   ICU Care
   Nutrition: NPO until mental status clears enough to allow oral intake
   Glycemic Control: Humalog insulin sliding scale
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-28**] 03:50 AM
   20 Gauge - [**2187-3-28**] 04:02 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   Communication:  Comments: HCP is daughter [**Name (NI) 2865**] [**Name (NI) 2866**],
   [**Telephone/Fax (1) 5134**].
   Code status: DNI, may resuscitate
   Disposition: ICU

2187-03-30 11:39:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo women with dimentia, bed boung, recurrent cholecystis, admitted
   with septic shock.  Has been well overnight with no events.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2187-3-30**] 06:16 AM
   Vancomycin - [**2187-3-30**] 08:20 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-30**] 09:30 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-3-30**] 08:20 AM
   Other medications:
   prevacid
   SSI
   collagenase ointment for decubes
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Integumentary (skin): No(t) Rash
   Heme / Lymph: No(t) Anemia
   Flowsheet Data as of  [**2187-3-30**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 85 (75 - 97) bpm
   BP: 115/52(78) {94/40(60) - 126/74(89)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  1,703 mL
                                                                    996 mL
   PO:
                                                                    400 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,303 mL
                                                                    936 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    810 mL
   Urine:
                                                                  1,535 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.42/24/84.[**Numeric Identifier 1132**]/18/-6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   261 K/uL
   144 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.7 mEq/L
   10 mg/dL
   118 mEq/L
   139 mEq/L
   30.1 %
   6.2 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
   WBC
   10.6
   14.5
   6.6
   6.2
   Hct
   32.0
   32.4
   33
   31.4
   30.1
   Plt
   [**Telephone/Fax (3) 5453**]61
   Cr
   0.9
   0.8
   0.8
   0.7
   TropT
   0.08
   0.08
   TCO2
   15
   17
   16
   Glucose
   195
   177
   136
   144
   Other labs: PT / PTT / INR:17.9/105.4/1.6, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Septic shock:  Stable off pressors for 2 days.  Treated for UTI and
   PNA.  Will treat empirically for 10days
   Chronic cholecystitis:  no need for tube drainage currently
   decube ulcers:  plastics consult to see after discussion with daughter
   DVT: on heparin gtt
   C. diff colitis:  on flagyl for two weeks after other antibiotics
   DM II on lantis and SSI
   dyphagia diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Comments: right IJ will need PIC line after holding heparin
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2187-03-31 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - plastics debridement of decub ulcer, recs WTD [**Hospital1 **] dressing changes
   - palliative care cont to speak with HCP
   - called out to floor, had bleeding from debrided wound.  Kept in MICU
   overnight.  PTT 150 on recheck.  HCT 30->28.  Hemodynamically stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-30**] 08:20 AM
   Metronidazole - [**2187-3-30**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-31**] 02:23 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-3-30**] 08:20 AM
   Morphine Sulfate - [**2187-3-30**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-31**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 97 (78 - 108) bpm
   BP: 118/50(107) {79/44(56) - 124/101(107)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 7 (3 - 16)mmHg
   Total In:
                                                                  2,146 mL
                                                                    171 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  1,846 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    305 mL
   Urine:
                                                                  1,640 mL
                                                                    305 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, oral mucosa dry
   NECK: Right IJ central line, nontender, no erythema
   PULM: Clear anteriorly
   CARD: RR, nl S1, nl S2
   ABD: Soft, NT, ND
   EXT: no C/C/E
   NEURO: Not oriented
   Labs / Radiology
   253 K/uL
   7.9 g/dL
   94 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.8 mEq/L
   8 mg/dL
   116 mEq/L
   140 mEq/L
   24.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
                             [**2187-3-30**]  10:51 PM
                             [**2187-3-31**]  03:22 AM
   WBC
   10.6
   14.5
   6.6
   6.2
   7.3
   Hct
   32.0
   32.4
   33
   31.4
   30.1
   27.6
   24.8
   Plt
   [**Telephone/Fax (3) 5453**]61
   253
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   TropT
   0.08
   0.08
   TCO2
   15
   17
   16
   Glucose
   195
   177
   136
   144
   94
   Other labs: PT / PTT / INR:16.8/37.2/1.5, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   A/P:  82 yo F with PMHx sig. for Alzheimer's disease, DM2, HTN, and
   multiple admissions for ascending cholangitis who was transferred from
   OSH for hypotension, fevers.
   1.  Severe septic shock:
   Pt has multiple sources including LLL infiltrate on CXR, possible
   cholecystitis/cholangitis on CT scan, positive U/A, and decubitus
   ulcers.  Pt has been liberated from phenylephrine. Surgery has signed
   off from the case, being unable to offer the patient any surgery for
   her gallbladder at this time. GI consult reports that cholangitis
   unlikely to be source of sepsis; however, should consider cholecystitis
   as cause of sepsis and consider percutaneous chole drainage via IR.
   Ucx from admit sig for GNR, likely source.
   - f/u blood cultures, UCx
   - vancomycin, zosyn (D1 [**3-28**]).  Plan 10d course for PNA.
   - flagyl (D1 [**3-28**] this admit) for c. diff
   - avoid levophed given afib
   - will readdress possibility of perc chole tube with family given pts
   improved status.
   2.  Hypotension:
   Reassuring that ECHO was normal as it helps us rule out cardiogenic
   causes of hypotension. Random cortisol of 21 is reassuring. In instance
   that hypotension caused by right heart failure from PE, heparin drip
   should be continued.  BP improved, off pressors.  Cont to monitor.
   3.  New onset atrial fibrillation:
   Likely in setting of sepsis, levophed, and high fevers. Dilt drip now
   off.
   - heparin gtt off now due to bleeding from sacral decubitus site, will
   restart heparin gtt gently
   - treat sepsis as above
   - tylenol for fevers
   4.  DVT:  DVT of L common femoral seen on CT scan of abdomen.
   Currently not very hypoxia to suggest PE but initially hypotensive.  Pt
   is guaiac pos.
   - heparin gtt off currently, will restart heparin gtt.
   5.  C. diff colitis:  Currently no evidence for toxic megacolon.
   - cont. flagyl
   - monitor stool output
   - d/c colace
   6.  Decubitus ulcers:  Concern for infection from diarrhea from C.
   diff.  Plastic surgery debrided ulcer on [**3-30**], complicated by bleeding
   from debridement due to heparin gtt, heparin gtt turned off.
   Recommendations for WTD [**Hospital1 **] dressing changes.
   - Plastic surgery following.
   - Will give 2u PRBC as appropriate with rpt HCT.
   7.  Nongap metabolic acidosis:  Likely from aggressive NS fluid
   resuscitation.
   - monitor serial ABGs, bicarb
   - fluid bolus with LR
   8.  DM2:
   - half of home lantus dose, ISS
   FEN:  Dysphagia diet
   Access:  RIJ CVL.  PICC line requested
   Dispo:  Possible callout to floor if HCT/SBP stable throughout day.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2187-03-31 09:35:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - significant bloody oozing from debridement of decub (on heparin)
         -hct drop
   -urine cx from 14th growing out e. coli
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-30**] 08:20 AM
   Metronidazole - [**2187-3-30**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-31**] 02:23 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2187-3-30**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-31**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.3
C (97.3
   HR: 89 (80 - 108) bpm
   BP: 114/47(138) {93/36(49) - 114/50(138)} mmHg
   RR: 21 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 7 (3 - 16)mmHg
   Total In:
                                                                  2,146 mL
                                                                  1,233 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,846 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    405 mL
   Urine:
                                                                  1,640 mL
                                                                    405 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    306 mL
                                                                    828 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, sacral decub
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   253 K/uL
   94 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.8 mEq/L
   8 mg/dL
   116 mEq/L
   140 mEq/L
   24.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2187-3-28**]  02:18 AM
                             [**2187-3-28**]  02:38 AM
                             [**2187-3-28**]  05:57 AM
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
                             [**2187-3-30**]  10:51 PM
                             [**2187-3-31**]  03:22 AM
   WBC
   10.6
   14.5
   6.6
   6.2
   7.3
   Hct
   32.0
   32.4
   33
   31.4
   30.1
   27.6
   24.8
   Plt
   [**Telephone/Fax (3) 5453**]61
   253
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   TropT
   0.08
   0.08
   TCO2
   15
   17
   16
   Glucose
   195
   177
   136
   144
   94
   Other labs: PT / PTT / INR:16.8/37.2/1.5, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:6.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Septic shock:
   - Stable off pressors x 3 days
   - Source PNA vs. UTI vs. sacral decub
   - empiric coverage vanc/zosyn/flagyl
   E. Coli UTI
   - zosyn
   C. Dif
   - cont flagyl
   Sacral decub ulcer
   -s/p debridement w/ subsequent oozing while on heparin.  subsequent hct
   drop
   Chronic cholecystitis
    no need for tube drainage currently
   DVT:
   - heparin gtt on hold secondary to oozing
   -consider restart heparin today - was supratherapeutic in setting of
   decub debridement during bleeding
   DM II
   -lantis and SSI
   dyphagia diet
   Please review resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2187-3-28**] 02:22 AM
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :
   Total time spent:

2187-04-01 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Remained in the MICU for transfusion of 2 units PRBCs and had
   appropirate HCT bump from 21.4 to 27.6
   - Blood pressures improved following transfusion; was asymptomatic with
   systolics in high 80s at times
   - Was started on lactulose to soften stool in order to place FelxiSeal
   to prevent stool soiling of sacral wound
 ARTERIAL LINE - STOP [**2187-3-31**] 12:51 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-31**] 09:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-4-1**] 02:04 AM
   Metronidazole - [**2187-4-1**] 06:05 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2187-3-31**] 10:34 AM
   Heparin Sodium (Prophylaxis) - [**2187-4-1**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-4-1**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 76 (73 - 101) bpm
   BP: 90/42(54) {75/32(44) - 112/85(91)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  3,103 mL
                                                                    272 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,340 mL
                                                                    272 mL
   Blood products:
                                                                    523 mL
   Total out:
                                                                  1,290 mL
                                                                    350 mL
   Urine:
                                                                  1,290 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,813 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, oral mucosa dry
   NECK: Right IJ central line, nontender, no erythema
   PULM: Clear anteriorly
   CARD: RR, nl S1, nl S2
   ABD: Soft, NT, ND
   EXT: no C/C/E
   NEURO: Not oriented, to person only
   Labs / Radiology
   218 K/uL
   9.4 g/dL
   69 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.6 mEq/L
   7 mg/dL
   116 mEq/L
   141 mEq/L
   28.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
                             [**2187-3-30**]  10:51 PM
                             [**2187-3-31**]  03:22 AM
                             [**2187-3-31**]  10:05 AM
                             [**2187-3-31**]  10:25 PM
                             [**2187-4-1**]  03:42 AM
   WBC
   6.6
   6.2
   7.3
   6.3
   6.1
   Hct
   33
   31.4
   30.1
   27.6
   24.8
   21.4
   27.6
   28.2
   Plt
   288
   261
   253
   222
   218
   Cr
   0.8
   0.7
   0.6
   0.7
   TCO2
   17
   16
   Glucose
   136
   144
   94
   69
   Other labs: PT / PTT / INR:16.6/35.5/1.5, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   82 yo F with PMHx sig. for Alzheimer's disease, DM2, HTN, and multiple
   admissions for ascending cholangitis who was transferred from OSH for
   hypotension, fevers.
   1.  Severe septic shock:
   Pt has multiple sources including LLL infiltrate on CXR, possible
   cholecystitis/cholangitis on CT scan, positive U/A, and decubitus
   ulcers.  Pt is off phenylephrine. Surgery has signed off from the case,
   being unable to offer the patient any surgery for her gallbladder at
   this time. GI consult reports that cholangitis unlikely to be source of
   sepsis; however, should consider cholecystitis as cause of sepsis and
   consider percutaneous chole drainage via IR.  Ucx from admit sig for
   E.coli, likely source.
   - f/u blood cultures
   - vancomycin, zosyn (D1 [**3-28**]).  Plan 10d course for PNA.
   - flagyl (D1 [**3-28**] this admit) for c. diff
   - avoid levophed given afib
   - will need to readdress possibility of perc chole tube with family
   given pts improved status.
   2.  Hypotension:
   Reassuring that ECHO was normal as it helps rule out cardiogenic causes
   of hypotension. Random cortisol of 21 is reassuring.  BP improved, off
   pressors.  Cont to monitor.
   3.  New onset atrial fibrillation:
   Likely in setting of sepsis, levophed, and high fevers. Dilt drip now
   off.
   - heparin gtt off was due to bleeding from sacral decubitus site, plan
   to restart heparin gtt gently today
   - treat sepsis as above
   - tylenol for fevers
   4.  DVT:  DVT of L common femoral seen on CT scan of abdomen.
   Currently not very hypoxic to suggest PE but initially hypotensive.  Pt
   is guaiac pos.
   - heparin gtt off yesterday due to bleeding from decubitus site, plan
   to restart heparin gtt this morning
   5.  C. diff colitis:  Currently no evidence for toxic megacolon.
   - cont. flagyl
   - monitor stool output
   - d/c colace
   6.  Decubitus ulcers:  Concern for infection from diarrhea from C.
   diff.  Plastic surgery debrided ulcer on [**3-30**], complicated by bleeding
   from debridement due to heparin gtt, heparin gtt turned off.
   Recommendations for WTD [**Hospital1 **] dressing changes.
   - Plastic surgery following.
   - status-post 2u PRBC with appropriate HCT increase.
   7.  Nongap metabolic acidosis:  Likely from aggressive NS fluid
   resuscitation.
   - monitor serial ABGs, bicarb
   - fluid bolus with LR
   8.  DM2:
   - half of home lantus dose, ISS
   FEN:  Dysphagia diet
   Access:  RIJ CVL.  PICC line requested
   Dispo:  Possible callout to floor if HCT/SBP stable throughout day.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:

2187-04-01 10:33:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:  PNA, UTI, resolved septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2187-3-31**] 12:51 PM
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: somewhat confused
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-4-1**] 02:04 AM
   Metronidazole - [**2187-4-1**] 06:05 AM
   Vancomycin - [**2187-4-1**] 07:47 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2187-3-31**] 10:34 AM
   Heparin Sodium (Prophylaxis) - [**2187-4-1**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-4-1**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 77 (73 - 101) bpm
   BP: 90/38(50) {75/32(44) - 112/85(91)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  3,103 mL
                                                                    530 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  2,340 mL
                                                                    530 mL
   Blood products:
                                                                    523 mL
   Total out:
                                                                  1,290 mL
                                                                    490 mL
   Urine:
                                                                  1,290 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,813 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   218 K/uL
   69 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.6 mEq/L
   7 mg/dL
   116 mEq/L
   141 mEq/L
   28.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2187-3-28**]  06:09 AM
                             [**2187-3-28**]  06:11 AM
                             [**2187-3-29**]  03:00 AM
                             [**2187-3-30**]  12:19 AM
                             [**2187-3-30**]  03:18 AM
                             [**2187-3-30**]  10:51 PM
                             [**2187-3-31**]  03:22 AM
                             [**2187-3-31**]  10:05 AM
                             [**2187-3-31**]  10:25 PM
                             [**2187-4-1**]  03:42 AM
   WBC
   6.6
   6.2
   7.3
   6.3
   6.1
   Hct
   33
   31.4
   30.1
   27.6
   24.8
   21.4
   27.6
   28.2
   Plt
   288
   261
   253
   222
   218
   Cr
   0.8
   0.7
   0.6
   0.7
   TCO2
   17
   16
   Glucose
   136
   144
   94
   69
   Other labs: PT / PTT / INR:16.6/35.5/1.5, CK / CKMB /
   Troponin-T:138/4/0.08, ALT / AST:[**7-31**], Alk Phos / T Bili:98/0.3,
   Differential-Neuts:83.2 %, Lymph:8.9 %, Mono:3.1 %, Eos:4.6 %, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:223 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Septic shock:
   - Stable off pressors x 4 days
   - Source PNA vs. UTI vs. sacral decub
   - empiric coverage vanc/zosyn/flagyl
    E. Coli UTI
   - zosyn
   C. Dif
   - cont flagyl
    Sacral decub ulcer
   -s/p debridement w/ subsequent oozing while on heparin.  subsequent hct
   drop, now stable x 2 checks
   Chronic cholecystitis
    -no need for tube drainage currently
    DVT:
   - heparin gtt on hold secondary to oozing
   -restart heparin today - was supratherapeutic in setting of decub
   debridement during bleeding
   DM II
   -lantis and SSI
   dysphagia diet
   Please review resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-29**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNI (do not intubate)
   Disposition :Transfer to floor
   Total time spent: